US07598423B2
Synthesis of 3-(3-{[3-(4-acetyl-2-chloro-3-hydroxy-phenoxymethyl)-phenyl]-hydroxy-methyl}-phenyl)-4H-[1,2,4]oxadiazol-5-one
Add isopropyl magnesium chloride (2M solution in tetrahydrofuran, 1.01 mL, 2.02 mmol) to a solution of 2-chloro-1-(3-iodo-benzyloxy)-3-trimethylsilanyloxy-4-(1-trimethylsilanyloxy-vinyl)-benzene (1.00 g, 1.83 mmol) in tetrahydrofuran (0.1M) chilled to 0° C. After 15 minutes, warm to room temperature. After 1 hour, cool to −78° C. Add sodium hydride (60% dispersion, 80 mg, 2.01 mmol) to a solution of 3-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-benzaldehyde (348 mg, 1.83 mmol) in tetrahydrofuran (0.1 M). Sonicate the solution for 5 minutes then add it via syringe to the gringard reagent. After 30 minutes, warm the reaction to room temperature. Quench with 10% aq hydrochloric acid. Pour the reaction into brine and extract with 25% isopropyl alcohol:75% dichloromethane. Combine the organic layers, dry with sodium sulfate, filter and concentrate under reduced pressure to give a residue. Purify the residue by flash chromatography eluting with ethyl acetate:hexanes:acetic acid (50%:50%:0.1%) to yield the title product as a white solid (120 mg, 14%): 1H NMR (DMSO-d6) δ 2.61 (s, 3H), 5.32 (s, 2H), 5.79 (d, 1H), 6.15 (d, 1H), 6.87 (d, 1H), 7.32-7.41 (m, 3H), 7.49 (m, 2H), 7.59 (dt, 1H), 7.64 (dt, 1H), 7.89-7.92 (m, 2H), 12.96 (bs, 1H), 13.13 (s, 1H); MS (esi negative) m/z (rel intensity) 465 (100).

reactant | isopropyl magnesium chloride | 2.02 mmol, 2M, 1.01 mL | C(C)(C)[Mg]Cl
reactant | 2-chloro-1-(3-iodo-benzyloxy)-3-trimethylsilanyloxy-4-(1-trimethylsilanyloxy-vinyl)-benzene | 1.83 mmol, 1.00 g | ClC1=C(C=CC(=C1O[Si](C)(C)C)C(=C)O[Si](C)(C)C)OCC1=CC(=CC=C1)I | C21H28ClIO3Si2
reactant | sodium hydride | 2.01 mmol, 80 mg | [H-].[Na+]
reactant | 3-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-benzaldehyde | 1.83 mmol, 348 mg | O=C1NC(=NO1)C=1C=C(C=O)C=CC1 | C9H6N2O3
solvent | tetrahydrofuran | 0.1M | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.1 M | O1CCCC1 | C4H8O
product | 3-(3-{[3-(4-acetyl-2-chloro-3-hydroxy-phenoxymethyl)-phenyl]-hydroxy-methyl}-phenyl)-4H-[1,2,4]oxadiazol-5-one | 120 mg, 14% | C(C)(=O)C1=C(C(=C(OCC=2C=C(C=CC2)C(C=2C=C(C=CC2)C2=NOC(N2)=O)O)C=C1)Cl)O | C24H19ClN2O6
